Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
Fall, weakness, fatigue
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year-old gentleman with history of CAD s/p DES, 
SSS s/p PPM, pAF on rivaroxaban in addition to Rai III CLL on 
ibrutinib and Stage IIIA NSGCT s/p radical orchiectomy and now 
on C2D7 of EP who presents with generalized weakness, a fall and 
abdominal discomfort. 

Mr. ___ was in his usual state of health until 2 days prior to 
admission when he began having generalized fatigue and malaise 
that has progressively worsened since then. On the day of 
admission he was walking back to the bathroom and felt his legs 
give out falling forward on his knees and hands. He denies loss
of consciousness, dizziness/lightheadedness, head strike. He is 
having some vague upper gastrointestinal upset over the past 2 
days along with some intermittent dyspnea. He denies having 
nausea/vomiting, diarrhea or constipation. He has not had chest 
discomfort, palpitations, pleuritic chest pain. He has been able 
to tolerate POs. 
 
ED initial vitals were  97.3 80 138/78 18 99% RA 
Prior to transfer vitals were  98.5 82 142/78 18 100% RA   

Exam in the ED showed : "pale gentleman, without acute distress. 
breathing comfortably on room air, shallow respirations 
bilaterally, without ronchi or wheezing, no murmurs, power port 
to R SCV, without overlying erythema, drainage,
tenderness, abd: soft, no RUQ tenderness. nontender extremities: 
no swelling, no tenderness to palpation bilaterally neuro: 
a+ox3."

ED work-up were significant for:
-CBC: WBC: 52.2* HGB: 8.8*. Plt Count: 289. Neuts%: 76*. 
-Chemistry: Na: 137. K: 3.8. Cl: 100. CO2: 25. BUN: 26*. Creat:
1.3*. Ca: 8.3*. Mg: 2.0. PO4: 3.3. 
-Lactate:1.8
-Coags: INR: 1.0. PTT: 29.1. 
-LFTs: ALT: 20. AST: 17. Alk Phos: 77. Total Bili: <0.2. 
-Lipase: 159
-Cards: EKG non-ischemic, TnT<0.01
-UA: WBC 1, RBC 1, Prot 100, Glu 100
-CXR: no acute process

Patient was given: AlOH/simethicone 30mL, viscous lidocaine 2% 
10mL, ondansetron 4mg IV x1, NS @ 150mL/h

On arrival to the floor, patient reports concern about his 
elevated lipase and white blood cell count, he thinks his cancer 
may have extended to his pancreas and that his CLL has worsened 
for being off the ibrutinib. He continues to feel tired, the 
nausea he felt in the emergency room has improved with 
ondansetron. He is afraid that his kidneys are failing and he 
would not like to be on dialysis. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
-___: Lymphocytosis incidentally found during a psychiatric
hospitalization.
-___: CT scan showed a slightly enlarged spleen at 14.5 cm 
and
no adenopathy.
-___: He met with Dr. ___ in ___ at
___. WBC was 15.0 with 49.6% lymphocytes, Hgb 11.9,
and platelets 260,000. Flow cytometry was consistent with CLL,
and B-cell gene rearrangement confirmed clonality. CLL FISH 
panel
showed a p53 mutation. He was asymptomatic at the time of
diagnosis and followed with Dr. ___. 
-WBC gradually uptrended to 22.7 in ___, 37.3 in ___, 
51.3
in ___, and 50.4 on ___. Hgb has decreased slightly to
10.9 and Hct 34.4 with platelets 234,000 on the ___ labs. 
-___: Hematology care transitioned to Dr. ___
after Dr. ___. He also started having nightly sweats. 

-___: CT Chest without lymphadenopathy or other notable
findings.
-___: Initial ___ Hematology evaluation for second
opinion. WBC 50.7, Hgb 10.5, Hct 33.2, Plt 226. Peripheral blood
flow cytometry and cytogenetics confirmed CLL with TP53 
deletion.
-___: CT Abdomen/Pelvis without lymphadenopathy or other
notable findings.
-___: Started ibrutinib 420 mg daily.
-___: Ibrutinib held for vitreous bleed
-___: Ibrutinib restarted
-___: Per OSH records, underwent scrotal U/S showing
heterogeneous left testicle, prominent rete testis on right.
-___: Presented to his outpatient hematologist, Dr. 
___ a painful swollen left testicle (swelling over ~8 months,
worsening pain).  This had been evaluated on ___ with an
ultrasound that did not demonstrate torsion but did show
heterogeneous morphology of the left testicle.  HCG was 
positive.
Referred to Dr. ___.
-___: ibrutinib held for surgery
-___: Underwent left radical orchiectomy.  Pathology
revealed 3.9 cm malignant mixed germ cell tumor of the testis,
95% embryonal carcinoma, 2% teratoma, 2% yolk sac tumor, 1%
choriocarcinoma, invading hilar statin ___ vaginalis, with
lymphatic vascular invasion and metastatic tumor nodules in the
spermatic cord.  pT2NxS1 (although no post-orch levels, beta hCG
64 on ___, up from 21 on ___ AFP 3, LDH normal).
-___: CT torso showing new 8 mm nodule in the left lower
lobe, and comparison with CT ___.
Left para-aortic lymphadenopathy up to 2.8 cm and a 3.5 cm fluid
collection in the left inguinal region/scrotum, felt to be 
likely
postsurgical.
-___: C1D1 EP
-___: C2D1 EP 

PAST MEDICAL HISTORY: 
-Sick sinus syndrome s/p PPM ___ Revo DDD, 
MRI-compatible,
___
-CAD s/p DES to mid-LAD in ___. Preserved LVEF in ___.
-Stroke ___
-Diabetes mellitus type II on insulin
-Hypertension
-Hyperlipidemia
-Morbid obesitys/p Gastric bypass surgery ___
-Obstructive sleep apnea - not on CPAP
-Pancreatitis ___ related to alcohol
-s/p Cholecystectomy
-Hypothyroidism
-Osteoarthritis
-s/p Bilateral shoulder surgery, chronic pain
-Major depression with psychotic features (vs schizoaffective
disorder per patient) (Dr. ___ name unknown, affiliated
with ___ ___)
-Anxiety
-Conversion disorder
-Benign paroxysmal positional vertigo
-Glaucoma, cataract (Dr. ___ at ___)
 
Social History:
___
Family History:
No cancer or stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 99.0 PO 171 / 79 79 20 97 RA  
GENERAL: Chronically-ill appearing gentleman, in emotional
distress lying in bed.
HEENT: Anicteric, PERLL, Mucous membranes dry, OP clear.
CARDIAC: Regular rate and rhythm, normal heart sounds, no
murmurs, rubs or gallops. JVP 1cm above clavicle.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, bowel sounds increased in frequency and
volume but normal tone, soft, non-tender, no guarding, no
palpable masses, no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. No erythema
or tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
PSYCH: Anxious mood and affect. 
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
Vitals:  98.2 150 / 76 77 18 99 RA 
GENERAL: Chronically-ill appearing gentleman, sitting up in 
chair eating breakfast
HEENT: Anicteric sclera, PERLL, MMM, OP clear.
CARDIAC: Regular rate and rhythm, normal heart sounds, no
murmurs, rubs or gallops. 
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, soft, non-tender, no guarding, no palpable 
masses, no organomegaly.
EXT: Warm, well perfused. Trace to 1+ lower extremity edema 
bilaterally. No erythema or tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
PSYCH: calm and cooperative.  
SKIN: No significant rashes. 

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 07:00PM BLOOD WBC-52.2*# RBC-3.31* Hgb-8.8* Hct-26.8* 
MCV-81* MCH-26.6 MCHC-32.8 RDW-17.9* RDWSD-47.8* Plt ___
___ 07:00PM BLOOD Neuts-76* Bands-0 ___ Monos-1* 
Eos-1 Baso-0 ___ Myelos-0 NRBC-1* AbsNeut-39.67* 
AbsLymp-11.48* AbsMono-0.52 AbsEos-0.52 AbsBaso-0.00*
___ 07:00PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Tear 
Dr-1+ Acantho-1+
___ 07:00PM BLOOD ___ PTT-29.1 ___
___ 07:00PM BLOOD Glucose-158* UreaN-26* Creat-1.3* Na-137 
K-3.8 Cl-100 HCO3-25 AnGap-16
___ 07:00PM BLOOD ALT-20 AST-17 AlkPhos-77 TotBili-<0.2
___ 07:00PM BLOOD Lipase-159*
___ 07:00PM BLOOD Albumin-3.8 Calcium-8.3* Phos-3.3 Mg-2.0
___ 05:11AM BLOOD TSH-4.0
___ 07:00PM BLOOD Lactate-1.8

==============
MICROBIOLOGY
==============

___ 10:30 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

   Respiratory Viral Culture (Pending): 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 

===============
IMAGING/STUDIES
===============

___ CXR
IMPRESSION:  
No acute cardiopulmonary process. 

==============
DISCHARGE LABS
==============
___ 05:30AM BLOOD WBC-30.3* RBC-3.20* Hgb-8.3* Hct-26.2* 
MCV-82 MCH-25.9* MCHC-31.7* RDW-17.7* RDWSD-48.7* Plt ___
___ 05:30AM BLOOD Glucose-104* UreaN-17 Creat-0.8 Na-138 
K-4.8 Cl-104 HCO3-25 AnGap-14
___ 05:30AM BLOOD Calcium-8.5 Phos-2.8 Mg-1.7
 
Brief Hospital Course:
Mr. ___ is a ___ year-old gentleman with history of CAD s/p DES, 
SSS s/p PPM, pAF on rivaroxaban in addition to Rai III CLL on 
ibrutinib (currently on hold) and Stage IIIA NSGCT s/p radical 
orchiectomy and now s/p initiation of cycle 2 (___) of 
Cisplatin/Etoposide who presents with generalized weakness, poor 
PO intake, a fall and abdominal discomfort. 

#Weakness:
#Hypovolemia:
#Acute Kidney Injury:
Weakness and fatigue are similar to what he experienced for a 
week during his first cycle of chemotherapy. Volume depleted on 
admission due to poor PO intake and ongoing use of furosemide. 
Cr elevated to 1.3 on admission, was given 1 L IVF with 
improvement in Cr to 0.9. Flu swab negative, respiratory viral 
panel negative for Adeno, Parainfluenza 1, 2, 3, Influenza A, B, 
and RSV; viral culture pending at the time of discharge. Held 
furosemide and losartan during this admission, but will resume 
on discharge. 

#S/P Fall: 
Suspect that fall was due to orthostatic factors, owing to 
volume depletion. Low suspicion for arrhythmia. No suspicion for 
ACS or seizure. No secondary injuries on exam. Patient was 
ambulatory in the hospital and did not need ___ evaluation.

#Epigastric discomfort 
#Nausea
#Hyperlipasemia:
Patient had significant upper GI upset and nausea after previous 
cycle of chemotherapy so likely attributable to chemotherapy. 
Mildly elevated lipase very unlikely to represent pancreatitis 
given absence of significant abdominal pain or tenderness. 
Contributing factors for hyperlipasemia in this patient are 
furosemide, renal failure, valproate, narcotics, RYGB. Continued 
Ondansetron, and added prochlorperazine and Ativan. Continued 
home pantoprazole and added sucralfate. Lipase trended down. 
Pt's diet was advanced without issue.

#Stage IIIA Non-seminoma testicular cancer
#Leukocytosis with Neutrophilia: 
With low risk features. Has completed C2 ___ C2D1) of 
cisplatin/etoposide. Received pegfilgrastim on ___ which 
explains his leukocytosis with neutrophilia. Did not receive any 
chemotherapy while in-house.

#Rai Stage III Chronic Lymphocytic Leukemia: 
Lymphocytosis to 11.48 on differential up from 3.39 on ___. 
Likely reactive and not reflecting recurrence or acceleration of 
CLL. Did not receive ibrutinib while inpatient, as this is being 
held while he is on chemo for his testicular cancer.

#Coronary artery disease
#Chronic diastolic heart failure
#History of CVA:
No symptoms suggestive of acute ischemia during this admission. 
EKG non-ischemic and initial TnT<0.01. No acute neurologic 
symptoms. Unclear why on atypical dose of 243mg of ASA but no 
evidence supporting this especially while anticoagulated and on 
clopidogrel with a history of vitreal bleed, so treated with ASA 
81. Continued home Plavix, atorva, metoprolol. Held home 
furosemide while inpatient 

#Paroxysmal Atrial Fibrillation
#Sick Sinus Syndrome:
Currently in sinus rhythm. Warrants continuation of 
anticoagulation given CHADSVaSC 6 (NNT 12). Continued dose 
reduced rivaroxaban 10mg with dinner. PPM active in DDD mode.

#Type 2 Diabetes Mellitus c/b nephropathy: 
Last A1c 7.4%. Held metformin in setting of ___. Continued home 
glargine 56sc bid. Humalog sliding scale.

#Depressive Disorder with Psychotic features
#Anxiety: 
Appropriately anxious affect while hospitalized, no positive or 
negative psychotic symptoms. Continued home psychiatric 
medications.

#Chronic back and shoulder pain: 
Not exacerbated. Continued acetaminophen-hydrocodone tid prn.

===================
TRANSITIONAL ISSUES
===================
-Respiratory viral culture pending at the time of discharge.
-He has been on triple anticoagulation with aspirin, 
clopidogrel, and rivaroxaban. Ibrutinib adds additional bleeding 
risk (though he is not currently on this). Patient will 
follow-up with his cardiologist for discussion of continuing 
clopidogrel (for LAD stent placed in ___.
-Nausea: added Compazine during this admission. ___ benefit from 
addition of Ativan or olanzapine to his anti-emetic regimen for 
the next round of chemotherapy

#CODE: Full Code, presumed. Not addressed in setting of marked 
anxiety. No urgency given clinical stability. 
#EMERGENCY CONTACT / HCP: ___ (son)
Phone number: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Headache 
2. Aspirin 243 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY 
5. Metoprolol Tartrate 12.5 mg PO BID 
6. Divalproex (EXTended Release) 500 mg PO BID 
7. Divalproex (EXTended Release) 250 mg PO QPM 
8. Docusate Sodium 100 mg PO BID constipation 
9. FLUoxetine 20 mg PO DAILY 
10. Furosemide 20 mg PO DAILY 
11. Gabapentin 300 mg PO TID 
12. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate 
13. Levothyroxine Sodium 25 mcg PO DAILY 
14. Losartan Potassium 50 mg PO DAILY 
15. Magnesium Oxide 400 mg PO BID 
16. melatonin 2.5 mg oral QHS:PRN 
17. MetFORMIN (Glucophage) 1000 mg PO BID 
18. Pantoprazole 40 mg PO Q24H 
19. Rivaroxaban 10 mg PO DAILY 
20. Senna 8.6 mg PO DAILY constipation 
21. Glargine 56 Units Breakfast
Glargine 56 Units Bedtime
22. TraZODone 300 mg PO QHS 

 
Discharge Medications:
1.  Prochlorperazine 10 mg PO Q6H:PRN nausea 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth q6h:prn 
Disp #*30 Tablet Refills:*0 
2.  Sucralfate 1 gm PO TID:PRN upset stomach with meals 
RX *sucralfate 1 gram/10 mL 10 mL by mouth TID:PRN Refills:*0 
3.  Acetaminophen 500 mg PO Q8H:PRN Headache  
4.  Aspirin 243 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Clopidogrel 75 mg PO DAILY  
7.  Divalproex (EXTended Release) 500 mg PO BID  
8.  Divalproex (EXTended Release) 250 mg PO QPM  
9.  Docusate Sodium 100 mg PO BID constipation  
10.  FLUoxetine 20 mg PO DAILY  
11.  Furosemide 20 mg PO DAILY  
12.  Gabapentin 300 mg PO TID  
13.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate  
14.  Glargine 56 Units Breakfast
Glargine 56 Units Bedtime 
15.  Levothyroxine Sodium 25 mcg PO DAILY  
16.  Losartan Potassium 50 mg PO DAILY  
17.  Magnesium Oxide 400 mg PO BID  
18.  melatonin 2.5 mg oral QHS:PRN  
19.  MetFORMIN (Glucophage) 1000 mg PO BID  
20.  Metoprolol Tartrate 12.5 mg PO BID  
21.  Pantoprazole 40 mg PO Q24H  
22.  Rivaroxaban 10 mg PO DAILY  
23.  Senna 8.6 mg PO DAILY constipation  
24.  TraZODone 300 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Volume depletion
Acute Kidney Injury
Testicular Cancer

Secondary diagnoses:
Chronic lymphocytic leukemia
Coronary artery disease
Diabetes mellitus type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
You were feeling weak and tired, and you had a fall at home. 
This was likely due to dehydration. 

WHAT HAPPENED WHILE YOU WERE HERE?
We treated you with IV fluids, and started some new medicines 
for nausea.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
Please continue to take all of your medications as directed, and 
follow up with all of your doctors. 

Again, it was a pleasure taking care of you!

Sincerely, 

Your ___ Team
 
Followup Instructions:
___